US05789417
Benzyl chloroformate (15.5 g) was added dropwise to a stirred mixture of (2S)-2-aminoadipic acid (12 g) and sodium carbonate (39.4 g) which had been cooled to 5° C. The mixture was stirred at ambient temperature for 16 hours. The mixture was washed with diethyl ether. The aqueous phase was acidified to pH1 by the addition of dilute aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried (MgSO4) and evaporated to give (2S)-2-benzyloxycarbonylaminoadipic acid (21.6 g).

reactant | Benzyl chloroformate | 15.5 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | (2S)-2-aminoadipic acid | 12 g | N[C@H](C(=O)O)CCCC(=O)O | C6H11NO4
reactant | sodium carbonate | 39.4 g | C([O-])([O-])=O.[Na+].[Na+]
product | (2S)-2-benzyloxycarbonylaminoadipic acid | 21.6 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CCCC(=O)O | C14H17NO6
